US04315858
A suspension of 9.2 g (40 mmol) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid, 100 ml of dimethylformamide, 4.8 ml (60 mmol) of ethyl isocyanate and 5.6 ml (40 mmol) of triethylamine is stirred at 25° for 16 hrs. The dimethylformamide is evaporated under reduced pressure and the residue is treated with 200 ml of water and the pH is adjusted to 2.0 with 1 N hydrochloric acid. The solid is filtered and washed with methanol, ether and dried to give 11.8 g of 6-[4-(N-ethylcarbamoylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid.

reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 40 mmol, 9.2 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | ethyl isocyanate | 60 mmol, 4.8 ml | C(C)N=C=O | C3H5NO
reactant | triethylamine | 40 mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-[4-(N-ethylcarbamoylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 11.8 g | C(C)NC(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C15H15N3O4
